US08283354B2
(R)-1-(4-(2-(2-Fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one (171 mg, 0.367 mmol) was dissolved in anhydrous CH2Cl2 (2 mL) followed by the addition of Et2O (6 ml) under an N2 atmosphere. A 2.0 M HCl solution in Et2O (0.184 mL, 0.367 mmol) was added over a 1 minute period. The reaction solution changed from a clear yellow solution to a milky white slurry. After complete addition of the HCl solution, the reaction was allowed to stir for an additional 10 minutes. The product was collected by vacuum filtration and dried under vacuum to obtain (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one hydrochloride as a light yellow solid (170 mg, 92%). LC/MS: m/z 467.3 (M+H)+ at 2.60 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.17 (d, J=8.3 Hz, 1H), 7.66 (s, 1H), 7.56 (d, J=8.1 Hz, 1H), 7.48-7.43 (m, 1H), 6.92-6.83 (m, 2H), 4.44-4.41 (m, 1H), 3.87-3.68 (m, 8H), 2.56 (s, 3H), 1.55 (dd, J=14.3, 3.0 Hz, 1H), 1.41 (dd, J=14.3, 8.8 Hz, 1H), 0.96 (s, 9H).

reactant | (R)-1-(4-(2-(2-Fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one | 0.367 mmol, 171 mg | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)(C)C)O)=O)C | C26H31FN4O3
reactant | Et2O | 6 ml | CCOCC | C4H10O
reactant | HCl | 2.0 M | Cl | ClH
reactant | Et2O | 0.367 mmol, 0.184 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4,4-dimethylpentan-1-one hydrochloride | 170 mg, 92% | Cl.FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)(C)C)O)=O)C | InChI=1S/C26H31FN4O3.ClH/c1-16-8-9-17-19(14-16)28-23(22-18(27)6-5-7-20(22)32)29-24(17)30-10-12-31(13-11-30)25(34)21(33)15-26(2,3)4;/h5-9,14,21,32-33H,10-13,15H2,1-4H3;1H/t21-;/m1./s1
